US07563805B2
Ethyl 1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate
To a solution of ethyl 1-benzyloxycarbonyl-3-methyl-4-oxopyrrolidine-3-carboxylate (1.0 g, 3.28 mmol) in methanol (20 mL), sodium borohydride (0.19 g, 4.92 mmol) was added at −20° C., and the mixture was stirred at the same temperature for 20 minutes. To the reaction mixture were added saturated aqueous solution of ammonium chloride (20 mL) and water (20 mL), and the mixture was extracted by ethyl acetate (20 mL×3). The extract was washed with saturated aqueous solution of sodium chloride (20 mL), and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate, 3:1) to obtain 0.57 g (57%) of the title compound as a colorless oily product.

reactant | ethyl 1-benzyloxycarbonyl-3-methyl-4-oxopyrrolidine-3-carboxylate | 3.28 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)=O)(C(=O)OCC)C | C16H19NO5
reactant | sodium borohydride | 4.92 mmol, 0.19 g | [BH4-].[Na+]
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | water | 20 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | Ethyl 1-benzyloxycarbonyl-4-hydroxy-3-methylpyrrolidine-3-carboxylate | 0.57 g, 57% | C(C1=CC=CC=C1)OC(=O)N1CC(C(C1)O)(C(=O)OCC)C | C16H21NO5
